US05708033
A solution of (E)-2-(4-chloro-6-fluoro-1-indanylidene)acetyl chloride (4.0 g, 0.015 mol) [as prepared in example 1 g] in dichloromethane (36 ml) was added dropwise to an ice-cold mixture of 30% aqueous ammonium hydroxide (2.0 ml, 0.03 mol) and dichloromethane (100 ml) and the mixture was stirred at ambient temperature for 18 h. The reaction mixture was concentrated in vacuo and the residue was partitioned between 5% aqueous sodium bicarbonate and ethyl acetate. The ethyl acetate solution was dried over sodium sulphate, filtered and concentrated in vacuo. The residue was purified by column chromatography on silica gel with ethyl acetate:hexanes (2:1) as eluent. Trituration of the resulting solid with pentane gave 1.47 g (43%) of (E)-2-(4-chloro-6-fluoro-1-indanylidene)acetamide as a white solid: m.p. 182°-184° C.

reactant | (E)-2-(4-chloro-6-fluoro-1-indanylidene)acetyl chloride | 0.015 mol, 4.0 g | ClC1=C2CC/C(/C2=CC(=C1)F)=C\C(=O)Cl | C11H7Cl2FO
reactant | ammonium hydroxide | 0.03 mol, 2.0 ml | [OH-].[NH4+]
solvent | dichloromethane | 36 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | (E)-2-(4-chloro-6-fluoro-1-indanylidene)acetamide | 1.47 g, 43% | ClC1=C2CC/C(/C2=CC(=C1)F)=C\C(=O)N | C11H9ClFNO
